US05532267
6-Amidino-2-naphthyl 5-(3-t-butoxycarbonylmethylcarbamoylpropionylaminomethyl)furan-2-carboxylate hydrochloride
To 0.75 g of glycine t-butyl ester hydrochloride, 0.15 g of DMAP and 1.5 g of 6-amidino-2-naphthyl 5-(3-carboxypropionylaminomethyl)furan-2-carboxylate hydrochloride were added 20 ml of DMF and 1 ml of pyridine, and the mixture was stirred while cooling with ice. After 10 minutes, 0.9 g of DCC was added thereto, and the mixture was stirred for 3 hours while cooling with ice and then for 24 hours at room temperature. The precipitate was filtered off, the filtrate was added in small portions to 300 ml of ether, and the mixture was stirred at room temperature for 3 hours. The supernatant was decanted, then 200 ml of ether was added to the residue and stirred at room temperature for 19 hours. The precipitate was collected by filtration, then dissolved in 15 ml of methanol, 0.4 g of active carbon was added thereto and the mixture was stirred for 15 minutes while cooling with ice. The insoluble was filtered off, the filtrate was added to 200 ml of ether and the mixture was stirred for 5 hours while cooling with ice. The precipitate was collected by filtration to obtain 1.4 g of the intended product.

reactant | glycine t-butyl ester hydrochloride | 0.75 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | 6-amidino-2-naphthyl 5-(3-carboxypropionylaminomethyl)furan-2-carboxylate hydrochloride | 1.5 g | Cl.C(=O)(O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DCC | 0.9 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 6-Amidino-2-naphthyl 5-(3-t-butoxycarbonylmethylcarbamoylpropionylaminomethyl)furan-2-carboxylate hydrochloride | 1.4 g | Cl.C(C)(C)(C)OC(=O)CNC(=O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C27H30N4O7.ClH/c1-27(2,3)38-24(34)15-31-23(33)11-10-22(32)30-14-20-8-9-21(36-20)26(35)37-19-7-6-16-12-18(25(28)29)5-4-17(16)13-19;/h4-9,12-13H,10-11,14-15H2,1-3H3,(H3,28,29)(H,30,32)(H,31,33);1H
